US07592373B2
5.2.b. (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-dimethoxymethylphenyl)acrylamide
Prepared analogously to Example 3.1.e. from (E)-3-(4-dimethoxymethylphenyl)acrylic acid and 4′-chlorobiphenyl-4-ylamine. Yield: 9.8 g, C24H22ClNO3 (M=407.90); calc.: molecular ion peak (M+H)+: 408/410; found: molecular ion peak (M+H)+: 408/410; Rf value: 0.3 (silica gel, dichloromethane/ethanol (20:1)).

reactant | (E)-3-(4-dimethoxymethylphenyl)acrylic acid | COC(C1=CC=C(C=C1)/C=C/C(=O)O)OC | C12H14O4
reactant | 4′-chlorobiphenyl-4-ylamine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-dimethoxymethylphenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)C(OC)OC)=O | C24H22ClNO3
